US04818756
Preparation of 2-(3-(4-(5-(4-chlorophenyl)-2-pyrimidinyl)-1-piperazinyl)-2-hydroxypropyl)isoindole-1,3(2H)dione
0.022 of 2-(2,3-epoxypropyl)isoindole-1,3(2H)dione, 0.02 mol of 1-(5-(4-chlorophenyl)-2-pyrimidinyl)piperazine and 70 ml of isopropanol are heated to boiling for 2 hours. The mixture is evaporated and the residue is purified by column chromatography on silica gel 60. After elution with methylene chloride/alcohol (96:4), the compound is stirred with alcohol and filtered off with suction.

reactant | 2-(2,3-epoxypropyl)isoindole-1,3(2H)dione | O1C(CN2C(C3=CC=CC=C3C2=O)=O)C1 | C11H9NO3
reactant | 1-(5-(4-chlorophenyl)-2-pyrimidinyl)piperazine | 0.02 mol | ClC1=CC=C(C=C1)C=1C=NC(=NC1)N1CCNCC1 | C14H15ClN4
solvent | isopropanol | 70 ml | C(C)(C)O | C3H8O
product | 2-(3-(4-(5-(4-chlorophenyl)-2-pyrimidinyl)-1-piperazinyl)-2-hydroxypropyl)isoindole-1,3(2H)dione | ClC1=CC=C(C=C1)C=1C=NC(=NC1)N1CCN(CC1)CC(CN1C(C2=CC=CC=C2C1=O)=O)O | C25H24ClN5O3
